US06380249B1
4-[5-Benzyl-2-(pyridin-2-yloxy)phenyl]-2,4-dioxo-butyric acid W3
To a solution of methyl 4-[5-benzyl-2-(pyridin-2-yloxy)phenyl]-2,4-dioxo-butyrate (0.14 g) in THF (10 mL) at room temp., aq. NaOH (1 M, 0.44 mL) was added. The resultant mixture was stirred at room temp for 6 h. The product mixture was diluted with chloroform and partitioned with aq. HCl. The organic extract was washed with brine, dried over sodium sulfate, filtered, and concentrated under vacuum. The residue was triturated with a mixture of diethyl ether and hexane. Filtration of the resultant solid provided the title acid. 1H NMR (CDCl3) δ8.25 (m, 1H), 7.8-6.8 (m, 12H), 4.05 (s, 2H).

reactant | methyl 4-[5-benzyl-2-(pyridin-2-yloxy)phenyl]-2,4-dioxo-butyrate | 0.14 g | C(C1=CC=CC=C1)C=1C=CC(=C(C1)C(CC(C(=O)OC)=O)=O)OC1=NC=CC=C1 | C23H19NO5
reactant | NaOH | 1 M, 0.44 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-Benzyl-2-(pyridin-2-yloxy)phenyl]-2,4-dioxo-butyric acid | C(C1=CC=CC=C1)C=1C=CC(=C(C1)C(CC(C(=O)O)=O)=O)OC1=NC=CC=C1 | C22H17NO5
